US06855710B2
c) (Z)-3-[1-(4-methoxy-phenylamino)-1-phenyl-methylidene]-2-indolinone
0.18 g (1.5 mmol) of 4-methoxyaniline and 0.2 g (0.28 mmol) of triethylamine are dissolved in 5 ml of dichloromethane and at 5° C. combined with a solution of 0.45 g (1.5 mmol) of 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone in 10 ml of dichloromethane and then stirred for 3 hours at ambient temperature. After removal of the solvent in vacuo the residue is taken up in ethyl acetate/water. The organic phase is washed with water, dried and the solvent is eliminated in vacuo. Then the mixture is dissolved in 15 ml of methanol, combined with 3 ml of 1N sodium hydroxide solution, stirred for 3 hours at ambient temperature and diluted with water and ethyl acetate. The organic phase is dried and concentrated by evaporation. The residue is heated in ethyl acetate, cooled, then suction filtered and dried.

reactant | 4-methoxyaniline | 1.5 mmol, 0.18 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 0.28 mmol, 0.2 g | C(C)N(CC)CC | C6H15N
reactant | 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone | 1.5 mmol, 0.45 g | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)Cl)=O | C17H12ClNO2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (Z)-3-[1-(4-methoxy-phenylamino)-1-phenyl-methylidene]-2-indolinone | COC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H18N2O2
